US04981850
Using the procedure of Example 80, except that 1-bromoethane was used instead of methyl iodide, 4-chloro-6,7-dihydro-2-ethyl-8H-pyrimido[5,4-b][1,4]oxazin-7-one was alkylated providing 4-chloro-2,8-diethyl-6,7dihydropyrimido[5,4-b ][1,4]oxazin-7-one.

reactant | 1-bromoethane | BrCC | C2H5Br
reactant | 4-chloro-6,7-dihydro-2-ethyl-8H-pyrimido[5,4-b][1,4]oxazin-7-one | ClC1=NC(=NC2=C1OCC(N2)=O)CC | C8H8ClN3O2
product | 4-chloro-2,8-diethyl-6,7dihydropyrimido[5,4-b ][1,4]oxazin-7-one | ClC1=NC(=NC2=C1OCC(N2CC)=O)CC | C10H12ClN3O2
